US05371101
To 4-trifluoromethylphenyl isocyanate (2.89 ml, 20.2 mmol) was added 5.36 ml of azidotrimethylsilane (39.9 mmol), and the mixture was stirred at 110° C. for twenty-four hours. After cooling, the mixture was subjected to column chromatography using silicagel (eluate; ethyl acetate:hexane=1:1 to 2:1 to ethyl acetate) to collect a desired fraction to be concentrated. The crystals obtained were recrystallized from ethyl acetate-hexane to give 3.64 g of 1-(4-trifluoromethylphenyl)-5(1H,4H)-tetrazolone (78%) as colorless needles.

reactant | 4-trifluoromethylphenyl isocyanate | 20.2 mmol, 2.89 ml | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
reactant | azidotrimethylsilane | 39.9 mmol, 5.36 ml | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-trifluoromethylphenyl)-5(1H,4H)-tetrazolone | 3.64 g, 78% | FC(C1=CC=C(C=C1)N1N=NNC1=O)(F)F | C8H5F3N4O
